### PR TITLE
[Merged by Bors] - feat(Data/List/Basic): lists with equal `tail` and `dropLast` are equal

### PR DESCRIPTION
**Pull request by SnirBroshi**
(except for subsingleton lists), and also lists with equal `head?` and `tail`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -503,6 +503,23 @@ theorem getElem_mem_tail {k : ℕ} (l : List α) (h : k ≠ 0) (hk : k < l.lengt
     l[k]'hk ∈ l.tail := by
   cases l <;> grind
 
+theorem tail_eq_nil_iff : l.tail = [] ↔ l.length ≤ 1 := by
+  grind [List.length_tail, List.length_eq_zero_iff]
```
Comment (felixpernegger) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
  grind [length_tail, length_eq_zero_iff]
```

Comment (felixpernegger) [reply Mathlib/Data/List/Basic.lean]: Same in rest of the pr

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -503,6 +503,23 @@ theorem getElem_mem_tail {k : ℕ} (l : List α) (h : k ≠ 0) (hk : k < l.lengt
     l[k]'hk ∈ l.tail := by
   cases l <;> grind
 
+theorem tail_eq_nil_iff : l.tail = [] ↔ l.length ≤ 1 := by
```
Comment (felixpernegger) [inline Mathlib/Data/List/Basic.lean:509]: I think this and the next lemma could be a `simp` lemma?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/List/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/Data/List/Basic.lean:499]: I'm not convinced that `l.length ≤ 1` is a good direction for the simplifier to go to: do you have an example in mind of a goal where this could be useful? Lower bounds for the length are nice, since they allow `List.get`, but upper bounds I see quite rarely.

Comment (SnirBroshi) [reply Mathlib/Data/List/Basic.lean:499]: Untagged `simp` for now

**Review by Vierkantor — APPROVED** [review]
Let's get this merged!

bors r+
